US05532240
To a mixture of 0.5 g of 3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine in 0.5 ml of triethylamine and 10 ml of chloroform was added 0.18 g of benzoyl chloride under cooling and the mixture was stirred for an hour, and then poured into water. The organic layer was washed with water, dried and concentrated. The residue was purified by column chromatography to give 0.4 g of 6-benzoyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as an oil, m.p. 192°-195° C. as oxalate 1/4 hydrate thereof.

reactant | 3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 0.5 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(SC=3CNCCC32)C)C=C1 | C22H26FN3OS
reactant | benzoyl chloride | 0.18 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-benzoyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 0.4 g | C(C1=CC=CC=C1)(=O)N1CC2=C(CC1)C(=C(S2)C)CCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F | C29H30FN3O2S
